US08420695B2
Step 5: 5-(6-Morpholin-4-ylpyridin-3-yl)-2-nitrothiophene-3-carboxamide
5-Bromo-2-nitrothiophene-3-carboxamide (2.50 g, 9.96 mmol) and 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-yl]morpholine (2.89 g, 9.96 mmol) were combined in THF (40 ml). Tetrakis(triphenylphoshine)palladium(0) (0.58 g, 0.50 mmol) was added and the reaction mixture was heated to reflux overnight. After cooling to room temperature, the mixture was diluted with ethyl acetate (500 ml) and water (500 ml). A red solid crashed out. The mixture was filtered and the solid was washed with ethyl acetate to yield the title compound as a red solid.

reactant | 5-Bromo-2-nitrothiophene-3-carboxamide | 9.96 mmol, 2.50 g | BrC1=CC(=C(S1)[N+](=O)[O-])C(=O)N | C5H3BrN2O3S
reactant | 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-yl]morpholine | 9.96 mmol, 2.89 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCOCC1)C | C15H23BN2O3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
product | 5-(6-Morpholin-4-ylpyridin-3-yl)-2-nitrothiophene-3-carboxamide | N1(CCOCC1)C1=CC=C(C=N1)C1=CC(=C(S1)[N+](=O)[O-])C(=O)N | C14H14N4O4S
